* Z:\mnt\design.r\spice\examples\1220.asc
V1 +V 0 15
V2 -V 0 -15
R1 N003 N001 1K
R2 N001 0 10K
V3 IN- IN+ SINE(0 10m 10K)
XU1 IN- N001 +V -V N003 LT1220
XU2 IN+ N002 +V -V OUT LT1220
R3 N002 N003 1K
R4 OUT N002 10K
R5 N002 N001 220
V4 IN+ 0 SINE(0 1 1K)
.tran 3m
* Two Op Amp Instrumentation Amplifier
.lib LTC.lib
.backanno
.end
